US05360808
1,6-Dihydro-6-oxo-1-[2-(3-quinolinylcarbonylamino)ethyl]-3-pyridinecarboxylic acid methyl ester
1-(2-aminoethyl)-1,6-dihydro-6-oxo-3-pyridinecarboxylic acid methyl ester (0.400 g, 2.0 mmol) was coupled with 3-quinolinecarboxylic acid (0.373 g, 2.2 mmol) in dichloromethane (35 ml) with triethylamine (1.40 ml, 10.0 mmol) and propylphosphoric acid anhydride (0.65 ml, added as a 0.65 ml ethyl acetate solution). After 17 hours, the solution was filtered through a pad of celite and the filtrate concentrated. Dichloromethane and aqueous sodium bicarbonate were added the layers separated. The aqueous layer was extracted with dichloromethane (2X) and the combined organic layers washed with aqueous sodium bicarbonate, brine, dried (Na2SO4), filtered, and concentrated. Recrystallisation from 1,2-dichloroethane gave the pure product, MP: 174°-175° C.

reactant | 1-(2-aminoethyl)-1,6-dihydro-6-oxo-3-pyridinecarboxylic acid methyl ester | 2.0 mmol, 0.400 g | COC(=O)C1=CN(C(C=C1)=O)CCN | C9H12N2O3
reactant | 3-quinolinecarboxylic acid | 2.2 mmol, 0.373 g | N1=CC(=CC2=CC=CC=C12)C(=O)O | C10H7NO2
reactant | triethylamine | 10.0 mmol, 1.40 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl acetate | 0.65 ml | C(C)(=O)OCC | C4H8O2
solvent | dichloromethane | 35 ml | ClCCl | CH2Cl2
product | 1,6-Dihydro-6-oxo-1-[2-(3-quinolinylcarbonylamino)ethyl]-3-pyridinecarboxylic acid methyl ester | COC(=O)C1=CN(C(C=C1)=O)CCNC(=O)C=1C=NC2=CC=CC=C2C1 | C19H17N3O4
